US07585885B2
2-sec-Butylamino-6-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-isonicotinic acid methyl ester
Add 2-sec-butylamino-6-chloro-isonicotinic acid methyl ester (1.0 g, 4.13 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.189 g, 0.207 mmol), 2-(di-tert-butylphosphino)biphenyl (0.123 g, 0.413 mmol) and the sodium salt of [1,2]thiazinane 1,1-dioxide (0.844 g, 5.37 mmol) in toluene (10 mL) to a sealed flask flushed with nitrogen. Heat and stir the sealed flask at 100° C. for 18 h. Cool to room temperature and filter through a bed of filtering agent, and wash with dichloromethane. Concentrate the filtrate and purify (silica gel chromatography, eluting with 20:80 to 30:70 ethyl acetate:hexanes) to give the title compound (0.533 g, 38%).

reactant | 2-sec-butylamino-6-chloro-isonicotinic acid methyl ester | 4.13 mmol, 1.0 g | COC(C1=CC(=NC(=C1)Cl)NC(C)CC)=O | C11H15ClN2O2
reactant | 2-(di-tert-butylphosphino)biphenyl | 0.413 mmol, 0.123 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium | [Na] | Na
reactant | [1,2]thiazinane 1,1-dioxide | 5.37 mmol, 0.844 g | S1(NCCCC1)(=O)=O | C4H9NO2S
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.207 mmol, 0.189 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-sec-Butylamino-6-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-isonicotinic acid methyl ester | 0.533 g, 38% | COC(C1=CC(=NC(=C1)N1S(CCCC1)(=O)=O)NC(C)CC)=O | C15H23N3O4S
